US03959413
16.4 g (0.1 mol) of 4-hydroxymethyl-1-phospha-2,6,7-trioxabicyclo[2,2,2]octane are dissolved in 150 ml of toluene by warming. 19.6 g (0.1 mol) of benzoyl chloride are added dropwise at room temperature, followed by 10.1 g (0.1 mol) of triethylamine. The temperature is kept at 30 C by means of an ice bath. After the dropwise addition is complete, the mixture is stirred for 2 hours at 60°C and is then heated to the boil for a short time and filtered while hot from triethylamine hydrochloride. The filtrate is cooled, whereupon the product is precipitated. After filtering and drying, benzoic acid 1-phospha-2,6,7-trioxabicyclo[2,2,2]oct-4 -yl-methyl ester (Stabiliser No. 1) of melting point 160°C is obtained. After recrystallisation from ethanol or isopropanol the product forms long, snow-white needles. If in this example, the benzoyl chloride is replaced by an equivalent quantity of one of the substituted benzoic acid chlorides in Table 1 below, an otherwise identical procedure gives benzoic acid 1-phospha-2,6,7-trioxabicyclo[2,2,2]oct-4-yl methyl esters substituted at the nucleus, the melting points of which are shown.

reactant | 4-hydroxymethyl-1-phospha-2,6,7-trioxabicyclo[2,2,2]octane | 0.1 mol, 16.4 g | OCC12COP(OC1)OC2 | C5H9O4P
reactant | benzoyl chloride | 0.1 mol, 19.6 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | triethylamine | 0.1 mol, 10.1 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | benzoic acid 1-phospha-2,6,7-trioxabicyclo[2,2,2]oct-4 -yl-methyl ester | P12OCC(CO1)(CO2)COC(C2=CC=CC=C2)=O | C12H13O5P
